US07238808B2
N-Methyl-4-[7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-benzenesulfonamide
The title compound was prepared from 3-ethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.1) (355 mg, 1.0 mmol) and 4-bromo-N-methyl-benzenesulfonamide (example B.27) (276 mg, 1.0 mmol) according to general procedure II. Obtained as a yellow solid (390 mg, 74%). MS (ISP) 525.2 [(M+H)+]; mp 231–233° C.

reactant | 3-ethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 1.0 mmol, 355 mg | C(#C)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C16H7F6N3
reactant | 4-bromo-N-methyl-benzenesulfonamide | 1.0 mmol, 276 mg | BrC1=CC=C(C=C1)S(=O)(=O)NC | C7H8BrNO2S
product | N-Methyl-4-[7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-benzenesulfonamide | CNS(=O)(=O)C1=CC=C(C=C1)C#CC=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C23H14F6N4O2S
